* SpiceNetList
* 
* Exported from Simulated02.sch at 24.01.2020 11:06
* 
* EAGLE Version 9.3.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
V_V1 VIN 0 DC 0V AC 240V 
C_C1 VCAP1 0 100n 
R_R1 VIN VCAP1 1k 

* --------- simulation ---------
.print DC V(VCAP1) Vp(VCAP1) I(V_V1)
.print AC V(VCAP1) Vp(VCAP1) I(V_V1)
.print TRAN V(VCAP1) Vp(VCAP1) I(V_V1)
.END










